US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-4-methoxy-2-(methylamino)-5-pyrimidinecarboxamide
Following the procedure of Example 22, 4-methoxy-2-(methylamino)-5-pyrimidinecarboxylic acid, 1,1'-carbonyldiimidazole and 3-aminoquinuclidine are reacted to give the title compound.

reactant | 4-methoxy-2-(methylamino)-5-pyrimidinecarboxylic acid | COC1=NC(=NC=C1C(=O)O)NC | C7H9N3O3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-4-methoxy-2-(methylamino)-5-pyrimidinecarboxamide | N12CC(C(CC1)CC2)NC(=O)C=2C(=NC(=NC2)NC)OC | C14H21N5O2
